US08835458B2
<Step 4> Preparation of 7-methoxy-6-nitroquinazolin-4(3H)-one
7-fluoro-6-nitroquinazolin-4(3H)-one (60 g, 287 mmol) in <Step 3> of Example 3 was dissolved in DMSO (600 mL) and sodium methoxide (46.5 g, 861 mmol) was added dropwise thereto in an ice water bath. Thirty minutes later, KOTMS (147 g, 1150 mmol) was added slowly to the water bath, and the mixture was subjected to a reaction for one day. Then, the mixture was neutralized with a 2N HCl solution. Subsequently, the solid thus obtained was filtered and dried to obtain the title compound (48 g, 76%).

reactant | 7-fluoro-6-nitroquinazolin-4(3H)-one | 287 mmol, 60 g | FC1=C(C=C2C(NC=NC2=C1)=O)[N+](=O)[O-] | C8H4FN3O3
reactant | sodium methoxide | 861 mmol, 46.5 g | C[O-].[Na+]
reactant | KOTMS | 1150 mmol, 147 g | O([K])[Si](C)(C)C
reactant | HCl | 2N | Cl | ClH
solvent | DMSO | 600 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 7-methoxy-6-nitroquinazolin-4(3H)-one | 48 g, 76% | COC1=C(C=C2C(NC=NC2=C1)=O)[N+](=O)[O-] | C9H7N3O4
